US07741327B2
To a stirred solution of (S)-2-[4-(2-benzyloxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-cyclohexyl-propionic acid methyl ester (310 mg, 0.001 mol) in tetrahydrofuran-water (3:1, 10 mL) was added lithium hydroxide (87 mg, 0.004 mol). The reaction mixture was stirred at 23° C. for 2 h. After this time, the mixture was concentrated and the reaction mixture was diluted with water. The reaction mixture was acidified with 2N hydrochloric acid, during which time precipitation occurred. The precipitate was removed by filtration, washed with cold water and dried in vacuo to obtain (S)-2-[4-(2-benzyloxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-cyclohexyl-propionic acid (245 mg, 82%).

reactant | (S)-2-[4-(2-benzyloxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-cyclohexyl-propionic acid methyl ester | 0.001 mol, 310 mg | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC1=C(C=CC=C1)OCC1=CC=CC=C1)=O)=O | C27H31NO5
reactant | lithium hydroxide | 0.004 mol, 87 mg | [OH-].[Li+]
solvent | tetrahydrofuran water | 10 mL | O1CCCC1.O
product | (S)-2-[4-(2-benzyloxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-cyclohexyl-propionic acid | 245 mg, 82% | C(C1=CC=CC=C1)OC1=C(OC2=CC(N(C2)[C@H](C(=O)O)CC2CCCCC2)=O)C=CC=C1 | C26H29NO5
